US07312359B2
A solution of methanesulfonic acid 2-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-ethyl ester (1.12 g, 2.84 mmol) in dry DMF (25 mL) was stirred under argon at room temperature. Solid potassium iodide (0.25 g) and sodium azide (0.185 g, 2.84 mmol) were added, and the reaction mixture was allowed to stir for 48 hours. The reaction mixture was poured into 500 mL of water, and the aqueous mixture was extracted four times with 150 mL of EtOAc. The combined organic layers were washed with water, brine, dried (MgSO4), and evaporated under reduced pressure to give an oil that was purified by eluting through silica gel with hexanes:EtOAc (3:2). After solvent removal, the resulting oil was dissoved in dry THF, cooled to 0° C., and 5.68 mL of lithium aluminum hydride in THF (5.68 mmol) was added dropwise via syringe to the stirring reaction mixture. The reaction mixture was allowed to warm to room temperature (about 30 minutes) and was quenched by addition to 250 mL of water. The aqueous solution was extracted twice with 250 mL of EtOAc, and the combined organic layers were washed with water, brine, dried (MgSO4), and evaporated under reduced pressure to give an oil. The oil was dissolved in MeOH, 2 mL of 2M HCl in Et2O) was added, and the solution was gently warmed, then cooled. The resulting residue was recrystallized from MeOH/Et2O to afford 0.17 g (0.483 mmol, 17%) of 2-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-ethylamine hydrochloride salt. MS: 316 (M+H)+.

reactant | methanesulfonic acid 2-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-ethyl ester | 2.84 mmol, 1.12 g | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CCOS(=O)(=O)C | C19H22O5S2
reactant | potassium iodide | 0.25 g | [I-].[K+]
reactant | sodium azide | 2.84 mmol, 0.185 g | [N-]=[N+]=[N-].[Na+]
reactant | lithium aluminum hydride | 5.68 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | THF | 5.68 mmol | C1CCOC1 | C4H8O
reactant | HCl | 2M, 2 mL | Cl | ClH
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
solvent | water | 500 mL | O | H2O
product | 2-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-ethylamine hydrochloride salt | 0.483 mmol, 0.17 g, 17% | Cl.C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CCN | InChI=1S/C18H21NO2S.ClH/c19-12-11-14-5-4-6-15-13-17(9-10-18(14)15)22(20,21)16-7-2-1-3-8-16;/h1-3,7-10,13-14H,4-6,11-12,19H2;1H
